US08378107B2
Step 7: (3-{3-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-5-methyl-pyridin-2-yl}-4-methoxy-phenyl)-acetic acid
To (3-{3-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-5-methyl-pyridin-2-yl}-4-methoxy-phenyl)-acetic acid ethyl ester (0.154 g, 0.38 mmol) in THF (1.5 mL) was added 1N aqueous LiOH (1.14 mL, 1.14 mmol), and enough MeOH to clarify the solution. The reaction was stirred at 40° C. for 30 minutes, until no starting material was seen by analytical tlc. The mixture was concentrated, diluted with H2O, and washed twice with EtOAc. After filtering through a 25 μM nylon filter, the aqueous layer was acidified to pH 3 with 1N aqueous HCl, and the volume was reduced by half and then saturated with NH4Cl. The mixture was extracted five times with CH2Cl2, and then the aqueous layer was concentrated to leave residual salts and a trace of liquid, which was further extracted with CH2Cl2 until only a small amount of the desired product remained in the salts. The combined organic layers were dried over Na2SO4, filtered, and concentrated to give the title compound.

reactant | (3-{3-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-5-methyl-pyridin-2-yl}-4-methoxy-phenyl)-acetic acid ethyl ester | 0.38 mmol, 0.154 g | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC=C(C=C1CN(CC)C(=O)C1CC1)C)=O | C24H30N2O4
reactant | LiOH | 1.14 mmol, 1N, 1.14 mL | [Li+].[OH-]
reactant | MeOH | CO | CH4O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | (3-{3-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-5-methyl-pyridin-2-yl}-4-methoxy-phenyl)-acetic acid | C1(CC1)C(=O)N(CC)CC=1C(=NC=C(C1)C)C=1C=C(C=CC1OC)CC(=O)O | C22H26N2O4
